Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Pollen/Hayfever
 
Attending: ___
 
Chief Complaint:
"I overdosed on advil"

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Pt is a pre-med student at ___ living on campus
who on ___, was told that she was suspended from school due
to her poor grades. Although the patient had been warned about
this in the past, she did not receive a letter and was told that
she needed to vacate that day. She had done better this semester
and did not foresee this event. She called the ___ who provided
her with a 7 day extension. The next day, the patient began to
cut herself on her left arm and then took 15+ tabs of Advil pm 
in
an effort to kill herself. The became drowsy and fell asleep,
without telling anyone. The next day she woke up. On the day of
admission the patient became upset about her circumstances and
felt she had no where to go. She took the rest of the tablets in
the Advil bottle, at which time her friend called her. The pt
states that although she did not tell the friend she took the
tabs, the pt thinks she spoke to her friend in a very calm way
which alerted the friend that something was wrong. The friend
called the school and an RA came to her door and took her to the
hospital. She currently feels numb, gives a history of feeling
worthless and guilty, has felt depressed for about 1 week, and
states she is sleeping more often.

 
Past Medical History:
PPH:
*No prior psychiatric hospitalizations, no hx of medication use,
no hx of violence to others, no current treaters.
*Pt has hx of self-cutting since age ___ which she describes 
as
not painful and something that provides her with relief.
*Pt has hx of bingeing and purging for one summer (___). Was
vomiting daily in an effort to lose weight. Denies this behavior
now.
The patient has had 4 prior suicide attempts. 
1) ___ grade, took pills (prescribed meds) approx 2 weeks after
after her best friend committed suicide. Pt felt guilty that she
was not there for her as her phone was off the week prior. Not
hospitalized.
2) Age ___ took approx 20 allergy pills after she had a fight
with her boyfriend.
3) ___ grade: Pt reports worst episode of depression. People
found out that she was cutting her left arm and leg after a
school physical. Was taken to the hospital but was later
discharged. Was set up with psychiatrist who offered meds but
patient declined. Also set up with counselor which helped.
 PMH:
Asthma: dx at age ___, last flare up ___ y/o, never intubated
Sinus problems (secondary to allergies esp in ___)
Migraine headaches
No head trauma, seizures.

 
Social History:
___
Family History:
Mother: past hx of crack/cocaine abuse, sober x ___
Father: past hx of crack/cocaine abuse, sober x ___ years

 
Physical Exam:
PE: As per ___ ED
MENTAL STATUS EXAM (USE FULL, DESCRIPTIVE SENTENCES WHERE
APPLICABLE)
     APPEARANCE & FACIAL EXPRESSION: Pt lying in stretcher,
appears reasonablby well-groomed, facial expression is reduced
but reactive at times 
     POSTURE: Unable to assess
     BEHAVIOR (NOTE ANY ABNORMAL MOVEMENTS): No abnormal
movements
     ATTITUDE (E.G., COOPERATIVE, PROVOCATIVE): Cooperative,
honest, genuine
     SPEECH (E.G., PRESSURED, SLOWED, DYSARTHRIC, APHASIC, 
ETC.):
Rate, volume, perhaps slightly reduced but appear within normal
limits
     MOOD: "I feel numb"
     AFFECT (NOTE RANGE, REACTIVITY, APPROPRIATENESS, ETC.): 
mood
congruent, some range of affect but not completely flat
     THOUGHT FORM (E.G., LOOSENED ASSOCIATIONS, TANGENTIALITY,:
linear
     CIRCUMSTANTIALITY, FLIGHT OF IDEAS, ETC.): None
     THOUGHT CONTENT (E.G., PREOCCUPATIONS, OBSESSIONS,          

DELUSIONS, ETC.): None noted
     ABNORMAL PERCEPTIONS (E.G., HALLUCINATIONS): None
     NEUROVEGETATIVE SYMPTOMS (E.G., DISTURBANCES OF SLEEP,      

APPETITE, ENERGY, LIBIDO): Inc sleep ___ hours), energy 
stated
as "high" with friends but gets upset when not around friends,
appetite poor for 2 months but states it's d/t the bad food at
school.
     SUICIDALITY/HOMICIDALITY (INCLUDE IDEATION, INTENT, PLAN):
Denies current SI, no plan
     INSIGHT AND JUDGMENT: Good. In the beginning was scared.
States she is glad she was brought in but she didn't want to
come. Now she feels she should be here.
     COGNITIVE ASSESSMENT:
          SENSORIUM (E.G., ALERT, DROWSY, SOMNOLENT): alert
          ORIENTATION: x3
          ATTENTION (DIGIT SPAN, SERIAL SEVENS, ETC.): MOYB
intact
          MEMORY (SHORT- AND LONG-TERM): recalls ___ items
          CALCULATIONS: n/a
          FUND OF KNOWLEDGE (ESTIMATE INTELLIGENCE): avg
          PROVERB INTERPRETATION: when asked what it means when
one says " cannot judge a book by it's cover" she staes everyone
has a story and you cannot pre-judge people. Need to get to know
them
          SIMILARITIES/ANALOGIES: intact

 
Pertinent Results:
LAB DATA: CBC with diff within nl except Eos 6.1. 
Coags: nl except PTT 36.6. 
Chem: nl
UA: nl
Utox: neg
Serum Tox: neg
LFTs: nl

 
Brief Hospital Course:
Psychotherapy:
On first day of admission, pt arrived on unit, was calm and 
cooperative. Initially, pt met with entire primary team to 
review some of the details of the circumstances leading up to 
her hospitalization.  Pt was very engaged and open about the 
multiple stressors that contributed to episodically decreased 
mood, specifically her difficulties in school. Pt reviewed her 
multiple suicide attempts in the past, and the impulsive nature 
of all her previous suicide attempts, and associated 
dysregulation of affect associated with her suicide attempts in 
the past. Also discussed with pt her history of cutting as a 
coping mechanism in the past. Finally, also reviewed with pt her 
history of sexual assualt as an adolescent. 

Pt denied SI throughout hospital course. D/w pt discharge 
planning. Pt expressed that she would like to begin seeing a 
psychiatrist when she is ultimately discharged. Pt also 
confirmed that she will be able to live a with a very close 
friend fo her on disposition, who happens to live in ___.

Began the discussion with pt revolving the primary teams working 
diagnosis of Borderline Personality disorder. Pt was given 
literature describing  Borderline personality.

Psychopharm:
Early on in hospital course, pt was started on Setraline 50mg 
for symptoms of intermittent depressed mood, and for 
impulsivity. 
Denies any medication adverse effects after receiving ___ couple 
of doses of Setraline. Pt reported sleeping well after recieving 
Trazadone for PRN for insomnia last night. Reports good 
appetite.   

 
Medications on Admission:
None
 
Discharge Medications:
1. Sertraline 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*14 Tablet(s)* Refills:*0*
2. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.
Disp:*14 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: Depressive disorder, NOS (rule out major depression)
Axis II: Borderline Personality Traits
Axis III: Asthma
Axis IV: Lack of social supports. Educational difficulties. 
Impulsivity.
Axis V: GAF=50

 
Discharge Condition:
Stable, improved.

MSE on Discharge:
Appearance: Young appearing woman, appearing stating age, in now 
acute distress, smiling at times during interview, calm and 
cooperative with interview, and with no abnormal movements
Speep: nml
Affect: euthymic
Mood: “better”
Thought Process: linear
Thought Content: the patient denies suicidal or homicidal 
ideation. 
Insight/Judgment: fair/fair
Orientation: A&O x3

 
Discharge Instructions:
Please followup with below appointments. Please take your 
prescribed medications as instructed. If symptoms return or 
worsen, please come to your nearest emergency room, or call ___.
 
Followup Instructions:
___